Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bradycardia, transfer
 
Major Surgical or Invasive Procedure:
Implantation of Dual Chamber Pacemaker (___)

 
History of Present Illness:
Ms ___ is an ___ w/h/o AFib on eliquis, AVR, transferred from 
___ due to c/f complete heart block.  
 Pt was in USOH until this AM, while at work she had sudden 
syncope w/o prodrome, was caught by co-workers before she hit 
the floor. EMS found the pt bradycardic to ___ with ?CHB. At 
___, rate improved (HR 50-60s, sinus rhythm, known RBBB 
and LAFB). , however had another episode on tele w/?CHB 
w/bradycardia which self-resolved. Pt with mildly low K/Mg which 
were repleted at OSH. Transferred here for higher level of cards 
care. No dyspnea, dizziness, CP, fevers/chills, additional 
complaints. Since being admitted to ___ ED no more episodes of 
complete heart block were seen. On telemetry she remained in 
sinus rhythm at 55-65 bpm, PR slightly prolonged (205 ms), RBBB, 
LAFB, QTc wnl.  
 In the ED, initial vitals were: T97.0 66 177/60 17 97% RA  
 - Exam notable for: N/A  
 - Labs notable for: WBC 10.6, Cr 0.7, Trop neg x1, UA w/15 WBC, 
Pos Nit, Few bact  
 - Imaging was notable for: N/A  
 - Patient was given: N/A  
 - VS prior to transfer: T97.6 61 153/60 19 96% RA  
 
 Upon arrival to the floor, patient reports LOC of only a few 
seconds while at work. Denies headstrike. No vertigo, no 
lh/dizziness. no chest pain, sob, orthopnea. no f/c/ns, abd 
pain, n/v/d/c, dysuria. occ BRB on TP. No black stools. No 
numbness/weakness/tingling, no vision changes. PMR Sx under 
control, mostly knee stiffness.  
 
Past Medical History:
-aortic stenosis s/p aortic valve replacement with tissue valve 
in ___  
-paroxysmal atrial fibrillation  
-prior episode of syncope in ___, circumstances unclear  
-possible history of Lyme disease in the past (arthralgia)  
treated with doxycycline (___)  
-Hypertension  
-hyperlipidemia  
-polymyalgia rheumatica  
-distant history of Graves disease  
-vertigo
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vital Signs: T97.6, 176/83, 68, 18, 96 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
Neck: Supple. JVP not elevated  
CV: Regular rate and rhythm. Normal S1+S2, +III/VI sys murmur 
greatest at RUSB  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no ___ edema b/l  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation

DISCHARGE PHYSICAL EXAM:
========================
VS 98.5 144/77 78 18 95/ra

General: NAD 
HEENT: MMM
Neck: JVP not elevated
Lungs: CTAB
CV: RRR, III/VI systolic murmur at RUSB radiating to carotids
Abdomen: Soft, nt, nd 
Ext:  WWP, no ___ edema
 
Pertinent Results:
PERTINENT LABS:
===============
___ 07:10AM BLOOD WBC-10.0 RBC-4.24 Hgb-12.5 Hct-36.9 
MCV-87 MCH-29.5 MCHC-33.9 RDW-12.9 RDWSD-40.7 Plt ___
___ 07:10AM BLOOD Glucose-128* UreaN-20 Creat-0.8 Na-146* 
K-3.6 Cl-105 HCO3-23 AnGap-22*
___ 12:33AM BLOOD cTropnT-<0.01
___ 06:48PM BLOOD cTropnT-<0.01
___ 07:10AM BLOOD Calcium-9.0 Phos-2.9 Mg-2.1
___ 06:48PM BLOOD TSH-0.89

IMAGING/STUDIES:
================
CXR ___:
No comparison.  The lung volumes are normal.  Status post 
sternotomy.  The sternal wires are in correct position.  
Moderate cardiomegaly.  Mild
elongation of the descending aorta.  No pulmonary edema, no 
pleural effusions.
No pneumonia.

CXR ___:
Status post dual-chamber pacemaker placement with leads in 
appropriate
placement.  No pneumothorax.
 
Brief Hospital Course:
Mrs ___ is an ___ year old woman with a PMH notable for 
AFib on apixiban, and bioprosthetic aortic valve who presented 
to ___ with syncope. She was found initially to be 
bradycardic in her ___ by EMS. Telemetry demonstrated that she 
had paroxysmal episodes of advanced AV block and complete heart 
block with a ventricular escape in the ___. She was 
transferred to ___ for pacemaker implantation. She underwent 
an uncomplicated procedure on ___. Telememetry and 
interrogation subsequently with appropriate capture and no 
further arrhythmia events. Discharged to complete total 3 day 
course of antibiotics with cephalexin.

TRANSITIONAL ISSUES:
# New Medications:
- Cephalexin 500mg Q12H (4 total doses)
# Patient needs a TTE at next cardiology appointment.
# Follow-up in device clinic in one week.
# EP follow-up in one month.
# Code: Full
# Contact: ___ dtr/hcp ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Apixaban 2.5 mg PO BID 
3. Atenolol 100 mg PO DAILY 
4. Fenofibrate 200 mg PO DAILY 
5. olmesartan-hydrochlorothiazide 40-25 mg oral DAILY 
6. PredniSONE 2.5 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q12H Duration: 4 Doses 
RX *cephalexin 500 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*4 Capsule Refills:*0 
2.  Apixaban 2.5 mg PO BID  
3.  Aspirin 81 mg PO DAILY  
4.  Atenolol 100 mg PO DAILY  
5.  Fenofibrate 200 mg PO DAILY  
6.  olmesartan-hydrochlorothiazide 40-25 mg oral DAILY  
7.  PredniSONE 2.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
3rd degree Heart Block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital because ___ were experiencing 
a dangerous abnormal heart rhythm. ___ had a pacemaker placed to 
help correct your heart rhythm. ___ will need to follow up with 
the pacemaker clinic in one week (see below). ___ will also need 
to take antibiotics for a few days until the incision site 
heals. 

Please take all medications as prescribed and keep all scheduled 
appointments. Should ___ develop a recurrence or worsening of 
the symptoms that originally brought ___ to the hospital, 
experience any of the warning signs listed below, or have any 
other symptoms that concern ___, please seek medical attention.

It was a pleasure taking care of ___!
Your ___ Care Team
 
Followup Instructions:
___